US07592477B2
Step a) Formation of 4-[(4-hexylphenyl)ethynyl]benzaldehyde
A mixture of 4-bromobenzaldehyde (5.00 g, 27.0 mmol), 1-ethynyl-4-hexylbenzene (6.29 g, 33.4 mmol), Et3N (4.70 mL, 33.4 mmol), bis(triphenylphosphine)palladium chloride (950 mg, 1.35 mmol) and triphenylphosphine (180 mg, 0.68 mmol) in anhydrous THF (100 mL) was stirred at rt for 30 min under inert atmosphere. Then copper(I) bromide (82 mg, 0.43 mmol) was added and the resulting mixture was stirred overnight at rt. The solvent was evaporated off. The residue was dissolved in Et2O (100 mL), washed with water (50 mL), dried over MgSO4 and the solvent was removed under reduced pressure. The resulting brown solid was triturated in hexane (25 mL), filtered off and washed with hexane to give the title compound as a beige solid (7.73 g, 91%). HPLC (Condition A), Rt: 5.88 min (HPLC purity: 91.9%).

reactant | 4-bromobenzaldehyde | 27.0 mmol, 5.00 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 1-ethynyl-4-hexylbenzene | 33.4 mmol, 6.29 g | C(#C)C1=CC=C(C=C1)CCCCCC | C14H18
reactant | Et3N | 33.4 mmol, 4.70 mL | CCN(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium chloride | 1.35 mmol, 950 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) bromide | 0.43 mmol, 82 mg | [Cu]Br
catalyst | triphenylphosphine | 0.68 mmol, 180 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-[(4-hexylphenyl)ethynyl]benzaldehyde | 7.73 g, 91% | C(CCCCC)C1=CC=C(C=C1)C#CC1=CC=C(C=O)C=C1 | C21H22O
